US09334279B2
To a 250 mL round-bottom flask equipped with a large stir bar was added (2S,4R)-methyl 1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate (10.9 g, 25.5 mmol), then THF (75 mL) and methanol (75 mL). To the stirred solution was added aq. lithium hydroxide (2.0 M, 38 mL, 77 mmol). The mixture was vigorously stirred for 1.5 h. The volatiles were removed organics were removed in vacuo and the resulting aqueous solution and solid residue was transfered to a 500 mL separatory funnel. The aqueous phase was adjusted to pH 2.5 using aqueous 2N HCl and was then extracted with EtOAc (3×100 mL). The combined organics were washed with aqueous sat. NaCl adjusted to pH 2.5 with aqueous HCl, dried over MgSO4; filtered; then concentrated in vacuo to afford (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid as a colorless foam (8.82 g, 84%). MS: MS m/z 413.2 (M++1).

reactant | (2S,4R)-methyl 1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | 25.5 mmol, 10.9 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)C | C22H38N2O6
reactant | THF | 75 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 77 mmol, 2.0 M, 38 mL | [OH-].[Li+]
solvent | methanol | 75 mL | CO | CH4O
product | (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 8.82 g, 84% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
